US06831081B2
Ethyl 4-Hydroxy-3-methylthieno[2,3-b]pyridine-5-carboxylate.
In a flask equipped with a Dean-Stark trap, a mixture of 2-((3-ethoxy-2-(ethoxycarbonyl)-3-oxoprop-1-enyl)amino)-4-methylthiophene-3-carboxylic acid (Preparation 25, 4.58 g) and phenyl ether (50 mL) is degassed by freeze-pump-thaw method and then heated to reflux. After approximately 30 min, the reaction mixture is allowed to cool to room temperature. The crude mixture is purified by column chromatography (CH2Cl2; CH2Cl2/methanol, 100/1) to afford 1.95 g of the title compound as a yellow solid. Physical characteristics. M.p. 189-192° C.; 1HNMR (400 MHz, CF3CO2D) δ 11.65, 9.10, 7.31, 4.66, 2.76, 1.53; MS (ESI−) m/z 236 (M—H). Anal. Found: C, 55.66; H, 4.67; N, 5.85; S, 13.40.

reactant | 2-((3-ethoxy-2-(ethoxycarbonyl)-3-oxoprop-1-enyl)amino)-4-methylthiophene-3-carboxylic acid | 4.58 g | C(C)OC(C(=CNC=1SC=C(C1C(=O)O)C)C(=O)OCC)=O | C14H17NO6S
solvent | phenyl ether | 50 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | Ethyl 4-Hydroxy-3-methylthieno[2,3-b]pyridine-5-carboxylate | 1.95 g | OC1=C2C(=NC=C1C(=O)OCC)SC=C2C | C11H11NO3S
